### PR TITLE
[Merged by Bors] - feat(GroupTheory): explicit isomorphism between infinite cyclic groups and Z

### PR DESCRIPTION
**Pull request by erdOne**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/SpecificGroups/Cyclic.lean [hunk 1]
```diff
@@ -827,6 +828,58 @@ noncomputable def mulEquivOfPrimeCardEq {p : ℕ} [Group G] [Group G']
   apply mulEquivOfCyclicCardEq
   exact hG.trans hH.symm
 
+lemma zpowersHom_bijective {G : Type*} [Group G] [Infinite G] {g : G}
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/SpecificGroups/Cyclic.lean]: Can you use a `variable {G : Type*} [Group G] [Infinite G] {g : G}` line?

File: Mathlib/GroupTheory/SpecificGroups/Cyclic.lean [hunk 2]
```diff
@@ -827,6 +828,58 @@ noncomputable def mulEquivOfPrimeCardEq {p : ℕ} [Group G] [Group G']
...
+
+lemma zmultiplesHom_bijective {G : Type*} [AddGroup G] [Infinite G] {g : G}
+    (hg : zmultiples g = ⊤) : Function.Bijective (zmultiplesHom G g) := by
+  refine ⟨(AddMonoidHom.ker_eq_bot_iff _).mp ?_, AddMonoidHom.range_eq_top.mp hg⟩
+  simp [zmultiplesHom_ker_eq, ← infinite_zmultiples, hg, Set.infinite_univ]
+
+/-- The isomorphism between `ℤ` and the infinite cyclic group `G` sending
+`1` to the generator `g : G`. -/
+@[simps! apply]
+noncomputable def intCyclicAddEquiv {G : Type*} [AddGroup G] [Infinite G] (g : G)
```
Comment (riccardobrasca) [inline Mathlib/GroupTheory/SpecificGroups/Cyclic.lean]: We can keep this, but I think it is worth to add a `def` that just pick an iso, without saying anything (using choice), and maybe a lemma saying that any two isos are the same up to sign (not 100% sure what it the best way of saying so).

File: Mathlib/GroupTheory/SpecificGroups/Cyclic.lean [hunk 3]
```diff
@@ -827,6 +828,58 @@ noncomputable def mulEquivOfPrimeCardEq {p : ℕ} [Group G] [Group G']
   apply mulEquivOfCyclicCardEq
   exact hG.trans hH.symm
 
+lemma zpowersHom_bijective {G : Type*} [Group G] [Infinite G] {g : G}
+    (hg : zpowers g = ⊤) : Function.Bijective (zpowersHom G g) := by
```
Comment (plp127) [inline Mathlib/GroupTheory/SpecificGroups/Cyclic.lean]: I think this is usually spelled `(hg : ∀ x, x ∈ zpowers g)`

Comment (erdOne) [reply Mathlib/GroupTheory/SpecificGroups/Cyclic.lean]: I'm not sure if this is true. This file is unfortunately a mix between the two and if we were to chose one I think the point free one (`zpowers g = ⊤`) should be preferred.

**Comment by plp127** [comment]
> Tagging @plp127 since this looks very similar to some code they PR'd not too long ago.

Yes, I have an open PR #34629

File: Mathlib/GroupTheory/SpecificGroups/Cyclic.lean (hunk 3 above)
Comment (vihdzp) [reply Mathlib/GroupTheory/SpecificGroups/Cyclic.lean]: I'm surprised we don't have an `IsGeneratedBy s` predicate, we could define it generally as just `sSup s = \top`, and then prove it equivalent to all these other spellings in specific cases.
